US20010027196A1
2-Amino-4-(4-benzoyl-piperazin-1-yl)-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile and phenyl-piperazin-1-ylmethanone in DME. ES-MS m/e (%): 397 (M+Na+, 25),375 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)(=O)C | C10H8N4O3S
reactant | phenyl-piperazin-1-ylmethanone | C1(=CC=CC=C1)C(=O)N1CCNCC1 | C11H14N2O
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(4-benzoyl-piperazin-1-yl)-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)N1CCN(CC1)C(C1=CC=CC=C1)=O)C#N)C=1OC=CC1 | C20H18N6O2
